US08809552B2
c) rac-6-Benzoyl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide
In analogy to the experimental procedure of example 1c) rac-3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]heptane instead of 6-(2,4-dichloro-benzylcarbamoyl)-2,6-diaza-spiro[3.3]heptane using benzoyl chloride was converted into the title compound (92 mg, 84%) which was obtained as a white solid. MS (EI) m/e: 404.2 (M+H)+.

reactant | rac-3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]heptane | ClC1=C(CNC(=O)N2CC3CNC3C2)C=CC(=C1)Cl | C13H15Cl2N3O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | rac-6-Benzoyl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide | 92 mg, 84% | ClC1=C(CNC(=O)N2CC3CN(C3C2)C(C2=CC=CC=C2)=O)C=CC(=C1)Cl | C20H19Cl2N3O2
